US06417393B1
N′-(3-Trifluoromethylphenyl)-N-(2-ethyloxycarbonylphenyl)-1,2-diaminoethane
Ethyl N-(2-bromoethyl)aminobenzoate (3.3 g, 12 mmol), 3-aminobenzotriflouride (1.5 mL, 12 mmol) and triethylamine (2 mL, 14 mmol) were mixed in dimethyltormamide (25 mL). The reaction mixture was heated at 110° C. for five hours. The cooled reaction mixture was poured into water and extracted with diethyl ether. Purification by column chromatography on silica gel using dichloromethane as eluent gave 1.6 g of the desired material.

reactant | Ethyl N-(2-bromoethyl)aminobenzoate | 12 mmol, 3.3 g | BrCCNC1=C(C(=O)OCC)C=CC=C1 | C11H14BrNO2
reactant | 3-aminobenzotriflouride | 12 mmol, 1.5 mL | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | triethylamine | 14 mmol, 2 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | N′-(3-Trifluoromethylphenyl)-N-(2-ethyloxycarbonylphenyl)-1,2-diaminoethane | 1.6 g | FC(C=1C=C(C=CC1)NCCNC1=C(C=CC=C1)C(=O)OCC)(F)F | C18H19F3N2O2
